US09328111B2
Step 1: Methyl 4-methyl-9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate
A mixture of methyl 2-oxocyclohexanecarboxylate (1.0 g, 6.4 mmol), methyl 3-amino-4-methylbenzoate (1.06 g, 6.4 mmol), polyphosphoric acid (4 mL) and dioxane (6 mL) was heated at 130° C. for 2 hours. After cooling to room temperature, the mixture was diluted with water (100 mL) and the resulting precipitate was collected by filtration and dried. The solid was suspended in methanol (100 mL) and SOCl2 (10 mL) was added. The mixture was stirred at reflux for 5 hours, concentrated and treated with water (80 mL), extracted with ethyl acetate (3×80 mL). The organic layer was separated, concentrated to give the crude product. Then the mixture was purified by chromatography column on silica gel (eluted with CH2Cl2/MeOH) to afford crude product, and the final product (0.55 g) was obtained from recrystallization using MeOH as solvent. 1H NMR (DMSO-d6) δ 10.3 (s, 1H), 7.41 (d, 1H, J=7.8 Hz), 6.99 (d, 1H, J=7.8 Hz), 3.73 (s, 3H), 2.78-2.81 (m, 2H), 2.50 (s, 3H), 2.35-2.37 (m, 2H), and 1.64-1.73 (m, 4H). MS (ESI) m/e [M+1]+272.0.

reactant | methyl 2-oxocyclohexanecarboxylate | 6.4 mmol, 1.0 g | O=C1C(CCCC1)C(=O)OC | C8H12O3
reactant | methyl 3-amino-4-methylbenzoate | 6.4 mmol, 1.06 g | NC=1C=C(C(=O)OC)C=CC1C | C9H11NO2
reactant | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | Methyl 4-methyl-9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate | 0.55 g | CC1=CC=C(C=2C(C=3CCCCC3NC12)=O)C(=O)OC | C16H17NO3
